US04092344
2-[2-(1-Aminocarbonyl-1-methylethyl)-5-methyl-1-cyclohexenyl]-5-(1,1-dimethylheptyl)dibenzylresorcinol
A solution of 2.0 g. of 2-[2-(1-cyano-1-methylethyl)-5-methyl-1-cyclohexenyl]-5-(1,1-dimethylheptyl)-dibenzylresorcinol in 6 ml. of ethanol containing 10 ml. of fifty percent aqueous sodium hydroxide solution was heated at reflux and stirred for 32 hours. After cooling the reaction mixture to room temperature, the excess reaction solvent was removed by evaporation under reduced pressure to provide a residue which was next dissolved in aqueous hydrochloric acid. The product was extracted from the aqueous acid solution into diethyl ether. The ethereal extracts were combined, washed with water, and dried. Removal of the solvent affered 2.0 g. of 2-[2-(1-aminocarbonyl-1-methylethyl)-5-methyl-1-cyclohexenyl]-5-(1,1-dimethylheptyl)dibenzylresorcinol as a solid. M.P. 113°-114° C. M+ 595.

reactant | 2-[2-(1-cyano-1-methylethyl)-5-methyl-1-cyclohexenyl]-5-(1,1-dimethylheptyl)-dibenzylresorcinol | C(#N)C(C)(C)C1=C(CC(CC1)C)C1=C(O)C(=C(C(=C1O)CC1=CC=CC=C1)C(CCCCCC)(C)C)CC1=CC=CC=C1 | C40H51NO2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | Cl | ClH
product | 2-[2-(1-Aminocarbonyl-1-methylethyl)-5-methyl-1-cyclohexenyl]-5-(1,1-dimethylheptyl)dibenzylresorcinol | NC(=O)C(C)(C)C1=C(CC(CC1)C)C1=C(O)C(=C(C(=C1O)CC1=CC=CC=C1)C(CCCCCC)(C)C)CC1=CC=CC=C1 | C40H53NO3
